US06284764B1
4-Oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester:
A mixture of 4-oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester (8.0 g, 46.0 mmol) and Pd/C (10%, 0.20 g) in EtOAc (70 mL) was shaken in a Parr bottle with hydrogen at 50 psi overnight and filtered through a pad of Celite. The filtrate was concentrated and the residue was distilled to give 2.62 g (33%) of yellowish oil: 1H NMR (CDCl3) δ 1.29 (t, 3H), 2.40 (d, 1H), 2.58-2.75 (m 3H), 3.79 (tt, 1H), 4.23 (q, 2H), 4.28 (m 1H), 4.40 (m, 1H).

reactant | 4-oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 46.0 mmol, 8.0 g | C(C)OC(=O)C1OC=CC(C1)=O | C8H10O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 4-Oxo-tetrahydro-pyran-2-carboxylic acid ethyl ester | 2.62 g, 33% | C(C)OC(=O)C1OCCC(C1)=O | C8H12O4
